US07452911B2
3.1e 1-[2-(4-bromo-2-chloro-phenoxy)-ethyl]-pyrrolidine
415 mg (3.00 mmol) K2CO3 and 170 mg (1.00 mmol) N-(2-chloroethyl)-pyrrolidine-hydrochloride is added to a solution of 207 mg (1.00 mmol) 4-bromo-2-chloro-phenol in 5 mL DMF and the mixture is stirred for 24 h at RT. The reaction mixture is diluted with 50 mL EtOAc, extracted once with 30 mL water and twice with 30 mL semisaturated NaHCO3 solution. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. Further purification is carried out by column chromatography on silica gel (gradient: DCM to DCM/MeOH 9:1).

reactant | K2CO3 | 3.00 mmol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-chloroethyl)-pyrrolidine-hydrochloride | 1.00 mmol, 170 mg | Cl.ClCCN1CCCC1
reactant | 4-bromo-2-chloro-phenol | 1.00 mmol, 207 mg | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-[2-(4-bromo-2-chloro-phenoxy)-ethyl]-pyrrolidine | BrC1=CC(=C(OCCN2CCCC2)C=C1)Cl | C12H15BrClNO
